US04916149
The process of Example 14 was followed by using 66.5 g of 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine, 70 ml of pyridine and 32.9 ml of benzoyl chloride as starting materials to yield 90 g (93.6%) of 2-benzoylamino-4-trifluoromethyl-N-acetylphenylhydrazine, m.p.: 212°-214° C. after recrystallization from 96% ethanol.

reactant | 2-amino-4-trifluoromethyl-N-acetylphenylhydrazine | 66.5 g | NC1=C(C=CC(=C1)C(F)(F)F)N(N)C(C)=O | C9H10F3N3O
reactant | benzoyl chloride | 32.9 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 2-benzoylamino-4-trifluoromethyl-N-acetylphenylhydrazine | 90 g, 93.6% | C(C1=CC=CC=C1)(=O)NC1=C(C=CC(=C1)C(F)(F)F)N(N)C(C)=O | C16H14F3N3O2
